Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
streptocid
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion, new leukocytosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ speaking ___ F w/ 7cm enlarging thyroid nodule 
scheduled for hemithyroidectomy presents with DOE & new 
leukocytosis.

Patient has large thyroid nodule, FNA biopsy on ___ showed 
with "follicular cells in mixed macro- and microfollicular 
architecture with abundant colloid and numerous 
hemosiderin-laden macrophages. A benign thyroid nodule is 
favored. However, the microfollicular component is prominent, 
followup is recommended."

Patient reports pain with swallowing, no dysphagia, fatigue, 
chills, no weight loss, clavicular ache (stable x months) but no 
acute chest pain, and anterior neck swelling. No n/v/d, cough or 
respiratory symptoms, dysuria/hematuria. Patient was at ___'s 
office on ___ when she was noted to have dyspnea on 
exertion and new leukocytosis (WBC 14.1 on ___, to 35.3 on 
___.

In the ED, initial vitals:  T 97.7, HR 117, BP 143/107, RR 22, 
95% RA.
Labs notable for: WBC 35.3, lactate 1.7. Patient underwent CXR 
which showed unchanged tracheal narrowing and rightward tracheal 
deviation secondary to known thyroid goiter, and was sent up to 
the medicine floor. 
 
Past Medical History:
Large thyroid mass
Hyperlipidemia
COPD
Cholecystectomy (remote)
 
Social History:
___
Family History:
Sister died of pancreatic cancer
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM:
=======================
Vitals:  T 97.5, BP 150/71, HR 86, RR 18, RR 94% RA
General: Alert, oriented, no acute distress, full dressed and 
walking around the hallways
HEENT: Sclerae anicteric, MMM, oropharynx clear. Negative 
___ sign (no increased facial flushing when arms are 
elevated above head)
Neck: supple, JVP not elevated. Palpable anterior thyroid mass 
overlying sternoclavicular joints, soft, indistinct borders, not 
fixed, no cervical lymphadenopathy.
Lungs: CTAB no wheezes/rales/rhonchi  
CV: RRR, S1/S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding
Ext: warm, well perfused, 2+ pulses, no edema  
Neuro: CN2-12 intact, no focal deficits 

=======================
DISCHARGE PHYSICAL EXAM:
=======================
Vitals:  Tm 99.4 T 97.9, BP 132/64, HR 78, RR 18, RR 91% RA
General: Alert, oriented, no acute distress, full dressed and 
walking around the hallways
HEENT: Sclerae anicteric, MMM, oropharynx clear. Negative 
___ sign (no increased facial flushing when arms are 
elevated above head). Palpable soft mass on crown of head 
(anterior, left-side), fluctuant, non-tender, overlying skin is 
slightly erythematous, approx 2cmx2cm.
Neck: supple, JVP not elevated. Palpable anterior thyroid mass 
overlying sternoclavicular joints, soft, indistinct borders, not 
fixed, no cervical lymphadenopathy.
Lungs: CTAB, No stridor. No wheezes.
CV: RRR, S1/S2, No MRG.
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding
Ext: warm, well perfused, 2+ pulses, no edema  
Neuro: CN2-12 intact, no focal deficits 
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 09:45AM BLOOD WBC-35.3* RBC-4.94 Hgb-13.1 Hct-41.7 
MCV-84 MCH-26.5 MCHC-31.4* RDW-15.6* RDWSD-47.7* Plt ___
___ 09:45AM BLOOD Neuts-84.1* Lymphs-6.5* Monos-4.5* 
Eos-2.5 Baso-0.6 Im ___ AbsNeut-29.66* AbsLymp-2.29 
AbsMono-1.60* AbsEos-0.89* AbsBaso-0.20*
___ 09:45AM BLOOD Glucose-60* UreaN-21* Creat-0.8 Na-137 
K-4.2 Cl-99 HCO3-23 AnGap-19
___ 09:45AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.3
___ 09:56AM BLOOD Lactate-1.7

===============
DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-31.4* RBC-4.79 Hgb-12.6 Hct-39.9 
MCV-83 MCH-26.3 MCHC-31.6* RDW-15.6* RDWSD-47.1* Plt ___
___ 06:00AM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-140 
K-4.0 Cl-101 HCO3-24 AnGap-19
___ 06:00AM BLOOD Calcium-8.9 Phos-4.3 Mg-2.3

========
IMAGING:
========
CT chest non-con on ___:
1. Large left thyroid mass with mediastinal extension, causing 
moderate tracheal narrowing concerning for thyroid carcinoma. 
2. Adjacent upper manubrial mass seems separate from thyroid 
mass, consistent with metastasis.   2 additional sclerotic 
skeletal lesions, worrisome for metastases. 
3. Pretracheal lymphadenopathy.  Indeterminate right hilar lymph 
node. 
4. Indeterminate liver lesions, worrisome for metastases. 
5. Mild left pleural effusion, adjacent atelectasis. 
6. Extensive centrilobular emphysema. 
7. 0.8 cm right lower lobe nodule, has fatty component 
centrally, likely benign. 
8. Significant narrowing versus occlusion right subclavian vein 
may be positional 

CT neck w/ and w/o contrast on ___:
1.  Large 7.8 cm left thyroid mass causing rightward mass effect 
upon the aerodigestive tract, with supra mediastinal extension.  
The trachea is patent.
2.  Soft tissue mass in the superior mediastinum with retro 
sternal extension causes a destructive, lytic osseous process at 
the sternal notch.  There is a preserved fat plane between this 
and the thyroid mass, favoring that this is not direct 
extension.
3.  Irregular, centrally hypodense 3.4 cm soft tissue mass in 
the superior right mediastinum may be a necrotic node.
 4.  Please refer to the dedicated CT chest report of the same 
date for further findings.

CXR on ___:
1. No evidence of pneumonia.  No discrete lung lesions 
identified.
2. Unchanged apparent tracheal narrowing and rightward tracheal 
deviation secondary to known left-sided thyroid enlargement.
3. Small left pleural effusion with elevated left hemidiaphragm.
4. Mild bibasilar atelectasis.

 
Brief Hospital Course:
BRIEF SUMMARY
==============
___ F w/ COPD and 7cm thyroid mass presents w/ leukocytosis and 
dyspnea on exertion. CXT and CT showed tracheal deviation and 
narrowing from the thyroid mass, but confirmed tracheal patency. 
Patient ambulated without respiratory distress, and exhibited no 
stridor nor wheezing. Chest CT was also notable for liver 
lesions, bone lesions, and lymph nodes concerning for 
metastasis. Patient was evaluated by the Heme Oncology and the 
Endocrine Surgery services. Due to patients overall clinical 
picture and general stability, she was discharged with plans to 
continue work-up of her thyroid mass and likely malignancy in 
the outpatient setting.

ACTIVE ISSUES
==============
# Thyroid nodule and concern for metastatic spread: Patient has 
had previous evaluation as an outpatient of thyroid nodule, with 
negative FNA x 2. However, patient was recommended to have 
hemithyroidectomy due to concern for malignancy given size. TSH 
& T4 wnl in ___. The patient was admitted for worsening 
dyspnea on exertion and received CT chest/neck, that showed 
large tracheal mass with mediastinal extension, tracheal 
deviation w/ moderate narrowing but still patent, paratracheal 
lymphadenopathy & possible pre-tracheal necrotic node, 
indeterminate liver lesions concerning for metastases. Primary 
most likely thought to be from thyroid. Hematology-oncology was 
consulted, and the patient recommended outpatient PET-CT and 
follow-up. Due to concern for the tracheal compression, 
endocrine surgery was consulted and recommended no urgent need 
for resection and outpatient follow-up. 

# Leukocytosis: The patient presented with leukocytosis in the 
___ with left shift. This was felt to be likely leukemoid 
reaction in the setting of metastatic malignancy, and heme-onc 
was in agreement. Infectious process unlikely because patient 
was afebrile throughout the admission and had no signs of 
systemic infection. CXR was negative for infection. Blood and 
urine cultures were preliminarily negative, but final results 
were still pending at time of discharge.

# Dyspnea on exertion: Patient likely has COPD in setting of 
life-long and ongoing tobacco use. Patient ambulated without 
respiratory distress, no subjective dyspnea, and no oxygen 
requirement. 

CHRONIC ISSUES:
================
# Tobacco use: Patient was placed on nicotine patch and gum 
while in-house. She was provided prescriptions at discharge. 

# Hyperlipidemia: Continued on home atorvastatin.

TRANSITIONAL ISSUES
===================
# Patient has pending labs for malignancy work-up, including 
SPEP, thyroglobulin, anti-thyroglobulin antibodies.
# Patient has endocrine surgery follow-up on ___ ___s 
outpatient PET-CT on ___ to evaluate extent of metastasis.
# Patient will be contacted regarding follow-up with heme-onc 
(Dr. ___. Please sure she has this follow-up. 
# For smoking cessation, she was given 1 month supply of 
nicotine patch 14 mg and nicotine gum 2 mg q2h. Please follow-up 
and provide further titration.
# Please consider discussion of code status, especially with 
regards to respiratory issues given her enlarging thyroid mass 
and known deviation/narrowing of trachea.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Rosuvastatin Calcium Dose is Unknown  PO QPM 
2. Naproxen 500 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Please apply once daily Disp #*28 
Patch Refills:*0 
2.  Nicotine Polacrilex 2 mg PO Q2H:PRN craving 
RX *nicotine (polacrilex) 2 mg Can use gum up to every 2 hours 
Disp #*1 Package Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
4.  Naproxen 500 mg PO DAILY:PRN Pain - Mild  
5.  Rosuvastatin Calcium 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
-Thyroid mass
-Leukocytosis
-Tobacco use

SECONDARY DIAGNOSIS:
====================
-Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were sent to the hospital by your primary care doctor, ___. 
___ of a high number of white blood cells in 
your blood, shortness of breath, and your recently diagnosed 
thyroid mass. While here, you had a chest x-ray and a CT scan 
that showed that your wind-pipe is narrowed due to the thyroid 
mass. You also were found to have evidence of metastatic spread 
to the liver, bone, and lymph nodes. While in the hospital, you 
met with the oncology team and the endocrine surgery team, and 
formulated a plan to continue your care in the outpatient 
setting. Please make sure that you make your appointments below.

The shortness of breath you feel when exercising is possibly 
related your many years of smoking. We do recommend that you 
continue nicotine patch and gum to help stop smoking. We have 
provided you with prescriptions for nicotine patches to use 
daily as well as gum, which you can use up to every 2 hours as 
needed for cravings. This prescription is a limited supply, so 
please speak with your primary care doctor at your follow-up 
appointment to continue these. 

It was a pleasure to participate in your care!

Sincerely,
Your ___ team

 
Followup Instructions:
___